US06506778B2
d) 6-{2,6-Dichloro-4-[(2-chlorobenzoyl)ureido]phenoxy}hexanoic Acid
A solution of 7.5 g (41.1 mmol) of 2-chlorobenzoyl isocyanate in 300 ml of acetonitrile was added to a suspension of 10.0 g (34.2 mmol) of 6-(4-amino-2,6-dichlorophenoxy)hexanoic acid in 700 ml of dry acetonitrile under a protective gas atmosphere at room temperature. The mixture was boiled under reflux for 2 hours and cooled to room temperature. The resulting precipitate was filtered off with suction and washed with 50 ml of acetonitrile. The residue was stirred with 100 ml of methanol, filtered off with suction, washed with a little methanol and dried at 40° C. under vacuum overnight. 13.7 g (28.9 mmol, 85%) of the required product were obtained. Melting point: about 171-173° C.

reactant | 2-chlorobenzoyl isocyanate | 41.1 mmol, 7.5 g | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
reactant | 6-(4-amino-2,6-dichlorophenoxy)hexanoic acid | 34.2 mmol, 10.0 g | NC1=CC(=C(OCCCCCC(=O)O)C(=C1)Cl)Cl | C12H15Cl2NO3
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | acetonitrile | 700 ml | C(C)#N | C2H3N
product | 6-{2,6-Dichloro-4-[(2-chlorobenzoyl)ureido]phenoxy}hexanoic Acid | 28.9 mmol, 13.7 g, 85% | ClC1=C(OCCCCCC(=O)O)C(=CC(=C1)NC(=O)NC(C1=C(C=CC=C1)Cl)=O)Cl | C20H19Cl3N2O5
